US06008229
To a solution of 2-[(E)-3-(6-carboxypyridin-3-yl)acryloylaminomethyl]-1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]pyrrole (60 mg) and methylamine hydrochloride (7.59 mg) in N,N-dimethylformamide (2 ml) were added 1-ethyl-3- (3-dimethylaminopropyl) carbodiimide (19 mg) and 1-hydroxybenzotriazole (20.7 mg) at ambient temperature, and the mixture was allowed to stand for 1 day at the same temperature. The reaction mixture was poured into water and extracted with chloroform. The extract was washed with water and saturated sodium bicarbonate solution, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol=10:1, V/V) to give 1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]-2-[(E)-3-[6-(methylcarbamoyl)pyridin-3-yl]acryloylaminomethyl]pyrrole (58 mg) as amorphous powder.

reactant | 2-[(E)-3-(6-carboxypyridin-3-yl)acryloylaminomethyl]-1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]pyrrole | 60 mg | C(=O)(O)C1=CC=C(C=N1)/C=C/C(=O)NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)COC=1C=CC=C2C=CC(=NC12)C)Cl | C31H24Cl2N4O4
reactant | methylamine hydrochloride | 7.59 mg | Cl.CN
reactant | 1-ethyl-3- (3-dimethylaminopropyl) carbodiimide | 19 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 20.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]-2-[(E)-3-[6-(methylcarbamoyl)pyridin-3-yl]acryloylaminomethyl]pyrrole | 58 mg | ClC1=C(C=CC(=C1COC=1C=CC=C2C=CC(=NC12)C)Cl)N1C(=CC=C1)CNC(\C=C\C=1C=NC(=CC1)C(NC)=O)=O | C32H27Cl2N5O3
